US09287504B2
3,7-Bis-(4-bromo-phenyl)-1,5-bis-(2-hexyl-decyl)-1H,5H-pyrrolo[2,3-f]indole-2,6-dione (2.1)
3,7-Bis-(4-bromo-phenyl)-1H,5H-pyrrolo[2,3-f]indole-2,6-dione (1.500 g, 3.023 mmol) (1.3) is dissolved into anhydrous dimethylformamide (60 cm3) and then potassium carbonate (4.178 g, 30.23 mmol) and 7-bromomethyl-pentadecane (2.308 g, 7.558 mmol) are added. The resulting mixture is heated to 90° C. for 21 hours before been cooling down, poured into methanol (400 cm3), filtered and washed with water (200 cm3) to recover the pure product (1.525 g, Yield: 53%). NMR (1H, 300 MHz, CDCl3): δ 7.61 (d, J=8.7 Hz, 4H), 7.57 (d, J=8.6 Hz, 4H), 6.29 (s, 2H), 3.50 (d, J=7.3 Hz, 4H), 1.76 (m, 2H), 1.28 (m, 48H), 0.86 (t, J=7.1 Hz, 12H)

reactant | 3,7-Bis-(4-bromo-phenyl)-1H,5H-pyrrolo[2,3-f]indole-2,6-dione | 3.023 mmol, 1.500 g | BrC1=CC=C(C=C1)C=1C(NC2=CC3=C(C(NC3=CC21)=O)C2=CC=C(C=C2)Br)=O | C22H12Br2N2O2
reactant | dimethylformamide | 60 cm3 | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 30.23 mmol, 4.178 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-bromomethyl-pentadecane | 7.558 mmol, 2.308 g | BrCC(CCCCCC)CCCCCCCC | C16H33Br
solvent | methanol | 400 cm3 | CO | CH4O
product | 3,7-Bis-(4-bromo-phenyl)-1,5-bis-(2-hexyl-decyl)-1H,5H-pyrrolo[2,3-f]indole-2,6-dione | 1.525 g, Yield: 53% | BrC1=CC=C(C=C1)C=1C(N(C2=CC3=C(C(N(C3=CC21)CC(CCCCCCCC)CCCCCC)=O)C2=CC=C(C=C2)Br)CC(CCCCCCCC)CCCCCC)=O | C54H76Br2N2O2
